US09371262B2
1-(2-(2,3-dimethylbut-2-en-1-yl)indolin-1-yl)ethanone
Following the general procedure as described in Example 11, 3,3,4-trimethylpent-4-en-2-one (0.50 g, 3.96 mmol), 1H-indole (0.56 g, 4.75 mmol) which was in situ isomerized to 3H-indole, and SnCl4 (1.24 g, 4.75 mmol) in 1,2-dichloroethane (40 ml) were reacted to give the title product as a white solid (0.56 g, 58%).

reactant | 3,3,4-trimethylpent-4-en-2-one | 3.96 mmol, 0.50 g | CC(C(C)=O)(C(=C)C)C | C8H14O
reactant | 1H-indole | 4.75 mmol, 0.56 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | 3H-indole | N1=CCC2=CC=CC=C12 | C8H7N
reactant | SnCl4 | 4.75 mmol, 1.24 g | Cl[Sn](Cl)(Cl)Cl
reactant | 1,2-dichloroethane | 40 ml | ClCCCl | C2H4Cl2
product | 1-(2-(2,3-dimethylbut-2-en-1-yl)indolin-1-yl)ethanone | 0.56 g, 58% | CC(CC1N(C2=CC=CC=C2C1)C(C)=O)=C(C)C | C16H21NO
